US08895566B2
A solution of Na2CO3 (0.36 mL, 2M) was added to a solution of (R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine (101 mg, 0.60 mmol), 3,6-dihydro-2H-pyridine-1-tert-butoxycarbonyl-4-boronic acid, pinacol ester (204 mg, 0.66 mmol) in 1,4-dioxane (1.8 mL). The mixture was sparged with N2 for 2 minutes. The catalyst Pd(PPh3)2Cl2 (21 mg, 0.03 mmol) was added in one portion. The mixture was heated at 110° C. under N2 for 8 hours. Water (20 mL) was added to the mixture and extracted with DCM (3×15 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude product was purified by flash chromatography (first with 0-50% EtOAc/hexane, then with 0-4% MeOH/DCM gradient elution) to give (R)-tert-butyl 4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate as an oil (127 mg, 67%). 1H NMR (CDCl3, 500 MHz) δ 8.91 (s, 1H), 6.31 (s, 1H), 3.64-3.55 (m, 1H), 3.10-3.03 (m, 2H), 2.98-2.90 (m, 2H), 2.83-2.78 (m, 1H), 2.42-2.34 (m, 2H), 1.77-1.69 (m, 2H). 1.49 (s, 9H), 1.19 (d, J=7.0 Hz, 3H).

reactant | Na2CO3 | 2M, 0.36 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.60 mmol, 101 mg | ClC=1C2=C(N=CN1)CC[C@H]2C | C8H9ClN2
reactant | 3,6-dihydro-2H-pyridine-1-tert-butoxycarbonyl-4-boronic acid | B1(OC(C(O1)(C)C)(C)C)C2=CCN(CC2)C(=O)OC(C)(C)C | C16H28BNO4
reactant | Water | 20 mL | O | H2O
solvent | 1,4-dioxane | 1.8 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.03 mmol, 21 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (R)-tert-butyl 4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 127 mg, 67% | C[C@@H]1CCC=2N=CN=C(C21)C2=CCN(CC2)C(=O)OC(C)(C)C | C18H25N3O2
